US09371336B2
tert-Butyl 4-(3-acetyl-2-oxo-2H-pyrano[2,3-b]pyridin-7-yl)-1,4-diazepane-1-carboxylate (350 mg, 0.903 mmol) in 10 mL of chloroform was treated with bromine (1M in CHCl3, 0.9 mmol) at room temperature. The reaction mixture was stirred at room temperature for 16 hours. The precipitated solid was filtered and the mother liquor was concentrated. The residue was purified on silica gel to yield tert-butyl 4-(3-(2-bromoacetyl)-2-oxo-2H-pyrano[2,3-b]pyridin-7-yl)-1,4-diazepane-1-carboxylate (132.2 mg, 32%). MS m/z 489 [M+Na]+.

reactant | tert-Butyl 4-(3-acetyl-2-oxo-2H-pyrano[2,3-b]pyridin-7-yl)-1,4-diazepane-1-carboxylate | 0.903 mmol, 350 mg | C(C)(=O)C1=CC=2C(=NC(=CC2)N2CCN(CCC2)C(=O)OC(C)(C)C)OC1=O | C20H25N3O5
reactant | bromine | 0.9 mmol, 1M | BrBr | Br2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-(3-(2-bromoacetyl)-2-oxo-2H-pyrano[2,3-b]pyridin-7-yl)-1,4-diazepane-1-carboxylate | 132.2 mg, 32% | BrCC(=O)C1=CC=2C(=NC(=CC2)N2CCN(CCC2)C(=O)OC(C)(C)C)OC1=O | C20H24BrN3O5
